US04497817
To 50 ml of acetonitrile were added 10 g of 2-aminobenzothiazole and 7 g of α-bromopropiophenone and the mixture was refluxed for 3 days. After cooling the reaction mixture, the precipitated hydrobromide of 2-aminobenzothiazole was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in 50 ml of chloroform and then 100 ml of ethyl acetate was added to the solution. The supernatant formed was recovered and concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography and then the product was eluted using chloroform as the eluant to provide 1.5 g of 3-methyl-2-phenylimidazo[2,1-b]benzothiazole.

reactant | 2-aminobenzothiazole | 10 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | α-bromopropiophenone | 7 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-methyl-2-phenylimidazo[2,1-b]benzothiazole | 1.5 g | CC1=C(N=C2SC3=C(N21)C=CC=C3)C3=CC=CC=C3 | C16H12N2S
